US07462614B2
In a similar manner as described for Example 25, 5-methyl-7-phenylimidazo[5,1-f][1,2,4]triazin-2-amine hydrochloride (26 mg, 0.1 mmol), 1-iodo-3-(trifluoromethyl)benzene (33 mg, 0.12 mmol), tris(dibenzylideneacetone)dipalladium (10 mg, 0.01 mmol), 2-(di-t-butylphosphino)biphenyl (10 mg, 0.03 mmol) and sodium t-butoxide (25 mg, 0.23 mmol) in dioxane (0.80 mL) gave 5-methyl-7-phenyl-N-[3-(trifluoromethyl)phenyl]imidazo[5,1-f][1,2,4]triazin-2-amine (30 mg, 81%) as a yellow solid. 1H NMR (CDCl3): δ8.83 (s, 1H), 8.46-8.49 (m, 2H), 8.33 (s, 1H), 7.43-7.57 (m, 5H), 7.35 (d, J=7.51 Hz, 1H), 7.08 (s, 1H), 2.63 (s, 3H). MS m/z 369 (M+1).

reactant | 5-methyl-7-phenylimidazo[5,1-f][1,2,4]triazin-2-amine hydrochloride | 0.1 mmol, 26 mg | Cl.CC=1N=C(N2N=C(N=CC21)N)C2=CC=CC=C2
reactant | 1-iodo-3-(trifluoromethyl)benzene | 0.12 mmol, 33 mg | IC1=CC(=CC=C1)C(F)(F)F | C7H4F3I
reactant | 2-(di-t-butylphosphino)biphenyl | 0.03 mmol, 10 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium t-butoxide | 0.23 mmol, 25 mg | CC(C)([O-])C.[Na+]
solvent | dioxane | 0.80 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.01 mmol, 10 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-methyl-7-phenyl-N-[3-(trifluoromethyl)phenyl]imidazo[5,1-f][1,2,4]triazin-2-amine | 30 mg, 81% | CC=1N=C(N2N=C(N=CC21)NC2=CC(=CC=C2)C(F)(F)F)C2=CC=CC=C2 | C19H14F3N5
